US07491722B2
4-Nitro-[2,7]naphthyridin-1-ol
To a stirred solution of 2H-[2,7]naphthyridin-1-one (300 mg, 2.05 mmol) (Baldwin, J. J.; Mensler, K.; Ponticello, G. S, J. Org. Chem. 1978, 43(25), 4878-80.) in 98% sulfuric acid (2 ml), 60% nitric acid (0.30 ml) was added dropwise and the mixture was warmed to 85° C. during 3 h. Addition, of ice-cold water and basification to pH 7, gave a precipitate which was filtered and washed with ethyl ether to yield the title product as a yellow solid (87%).

reactant | 2H-[2,7]naphthyridin-1-one | 2.05 mmol, 300 mg | C1(NC=CC2=CC=NC=C12)=O | C8H6N2O
reactant | nitric acid | 0.30 ml | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
product | 4-Nitro-[2,7]naphthyridin-1-ol | 87% | [N+](=O)([O-])C1=CN=C(C2=CN=CC=C12)O | C8H5N3O3
